US04202955
The copolymerization of 1.2 g (12 mmoles) of maleic anhydride with 0.8 g. (12 mmoles) of cyclopentadiene using 0.3 ml. (1 mmole) of t-butyl peroxypivalate as catalyst at 80° C. was carried out in the presence of 1.8 ml. of chlorobenzene, using the procedure described in Example VI. The catalyst addition was carried out over a period of 10 min. and the reaction mixture was then maintained at 80° C. for an additional 50 min. The 1:2 cyclopentadiene-maleic anhydride copolymer was obtained in a yield of 0.64 g. (40%)

reactant | maleic anhydride | 12 mmoles, 1.2 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | cyclopentadiene | 12 mmoles, 0.3 ml | C1=CC=CC1 | C5H6
catalyst | t-butyl peroxypivalate | 1 mmole | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | cyclopentadiene-maleic anhydride | C1(=CC=CC1)/C/1=C/C(=O)OC1=O | C9H6O3
